US07179912B2
A refluxing solution of 4-methylsalicylic acid methyl ester (5.1 g, 31.3 mmol) in carbon tetrachloride (50 mL) was treated dropwise with a solution of bromine (1.6 mL, 31.3 mmol) in carbon tetrachloride (5 mL) while under illumination by a 200 W incandescent light bulb. The reaction mixture was stirred for an additional 30 min at reflux and concentrated in vacuo. The residue was dissolved in EtOAc (50 mL) and washed with aqueous sodium thiosulfate (5%, 50 mL), water (50 mL), and brine (50 mL). The organic layer was dried over Na2SO4, concentrated, and the product 4-bromomethylsalicylic acid methyl ester was isolated by recrystallization from heptane (1.6 g, 21%).

reactant | 4-methylsalicylic acid methyl ester | 31.3 mmol, 5.1 g | COC(C=1C(O)=CC(=CC1)C)=O | C9H10O3
reactant | bromine | 31.3 mmol, 1.6 mL | BrBr | Br2
solvent | carbon tetrachloride | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 5 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-bromomethylsalicylic acid methyl ester | COC(C=1C(O)=CC(=CC1)CBr)=O | C9H9BrO3
